US07560569B2
(2S,4S)-1-[[N-(4-Carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (30.0 mg), along with 1-hydroxybenzotriazole, was dissolved in N,N-dimethylformamide (1.0 mL). While the solution was chilled in an ice bath, 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (53.4 mg) was added and the mixture was allowed to warm to room temperature and was stirred for 1 hour. Subsequently, 4-trifluoromethylaniline (23.0 μL) was added and the mixture was stirred for additional 12 hours, followed by addition of dimethylaminopyridine (11.3 mg) and stirring for additional 24 hours. The solvent was then evaporated under reduced pressure and the resulting residue was purified by preparative thin-layer chromatography (solvent:dichloromethane:methanol=4:1) to give (2S,4S)-4-fluoro-1-[[N-[4-[N-(4-trifluoromethylphenyl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile (10.1 mg).

reactant | (2S,4S)-1-[[N-(4-Carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 30.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 53.4 mg | Cl.CN(CCCN=C=NCC)C
reactant | 4-trifluoromethylaniline | 23.0 μL | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | dimethylaminopyridine | 11.3 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | (2S,4S)-4-fluoro-1-[[N-[4-[N-(4-trifluoromethylphenyl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile | 10.1 mg | F[C@H]1C[C@H](N(C1)C(CNC12CCC(CC1)(CC2)C(=O)NC2=CC=C(C=C2)C(F)(F)F)=O)C#N | C23H26F4N4O2
